US05998573
Synthesis of 4,6-diamino-2-cyclohexylamino-1,3,5-triazine
A mixed solution of 14.5 g (0.1 mol) of 2,4-diamino-6-chloro-1,3,5-triazine which is an intermediate product synthesized in the Reference Example 1, 140 mL of water, and 29.2 g (0.3 mol) of cyclohexylamine was heated while stirring, followed by being reated for 1 hour at reflux temperature. Subsequently, the reaction mixture was added with 40 mL of aqueous solution containing 12 g of sodium hydroxide over 1 hour, followed by aging for 1 hour. Into a reaction mixture obtained, 200 mL of toluene was added, followed by being cooled to room temperature. A crystalline obtained was filtered, followed by washing in order with 100 mL of toluene, and then 100 mL of water, and drying at reduced pressure to obtain 17.9 g (a yield of 86%) of the above-identified compound. Melting point: 151° C.

reactant | 2,4-diamino-6-chloro-1,3,5-triazine | 0.1 mol, 14.5 g | NC1=NC(=NC(=N1)N)Cl | C3H4ClN5
reactant | water | 140 mL | O | H2O
reactant | cyclohexylamine | 0.3 mol, 29.2 g | C1(CCCCC1)N | C6H13N
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4,6-diamino-2-cyclohexylamino-1,3,5-triazine | yield of 86% | NC1=NC(=NC(=N1)N)NC1CCCCC1 | C9H16N6
